US06887891B2
7.B.1. tert-butyl 4-nitrobenylcarbamate:
5.66 g (30.0 mmol) of p-nitrobenzylamine hydrochloride is dissolved in a mixture of 100 ml of dichloromethane and 9.2 ml of triethylamine. The mixture is cooled down using an ice bath before the addition in several portions of 7.2 g (33.0 mmol) of (Boc)2O. The reaction mixture is agitated at 23° C. for 12 hours and poured into a water-ice mixture. The organic phase is decanted, washed successively with 20 ml of water and with 20 ml of salt water. After drying over sodium sulphate, filtration and concentration under vacuum, and trituration with isopropyl ether a white solid is obtained with a yield of 67.4%. Melting point: 107.8° C.

reactant | p-nitrobenzylamine hydrochloride | 30.0 mmol, 5.66 g | Cl.[N+](=O)([O-])C1=CC=C(CN)C=C1
reactant | (Boc)2O | 33.0 mmol, 7.2 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | triethylamine | 9.2 ml | C(C)N(CC)CC | C6H15N
product | tert-butyl 4-nitrobenylcarbamate | yield of 67.4% | [N+](=O)([O-])C1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C12H16N2O4
